US04978753
In the manner given in Example 37, 1-carbomethoxy-9-chloro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one was reduced with lithium aluminum hydride to give 1-hydroxymethyl-9-chloro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 1-carbomethoxy-9-chloro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | C(=O)(OC)C1=CC(N=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)=O | C20H13Cl2N3O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-hydroxymethyl-9-chloro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | OCC1=CC(N=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)=O | C19H13Cl2N3O2
